US05731321
A 50% solution of 0.4 g of 2-methoxybenzyl chloride ("A") in dichloromethane is added to a solution of 0.4 g of methyl 4-(1,3-benzodioxol-5-yl)-1, 2-dihydro-6-ethoxy-2-oxoquinoline-3-carboxylate (obtainable by reacting 1-amino-2-(3,4-methylenedioxybenzoyl)-4-ethoxybenzene and methyl chloroformylacetate in dichloromethane and ethyldiisopropylamine with subsequent cyclization of the intermediate in sodium methanolate solution, m.p. 224°-225°; 1-amino-2-(3,4-methylenedioxybenzoyl)-4-ethoxybenzene is obtainable by reacting 3,4-methylenedioxybenzaldehyde and N-(tert-butyloxycarbonyl)-p-ethoxyaniline, m.p. 113°-114°, in THF, tert-butyllithium at -78°, subsequently oxidizing the resulting 3', 4'-methylenedioxy-2-(N-tert-butyloxy-carbonylamino)-5-ethoxydiphenylmethanol and eliminating the amino protective group, EI-MS 285) in 5 ml of DMF and 0.17 g of potassium carbonate. The reaction mixture is stirred for 4 hours and worked up as usual. This results in the N-alkylation product methyl 4-(1,3-benzodioxol-5-yl)-1,2-dihydro-6-ethoxy-1-(2-methoxybenzyl)-2-oxoquinoline-3-carboxylate, m.p. 182°-183° and the -alkylation product methyl 4-(1,3-benzodioxol-5-yl)-6-ethoxy-2-(2-methoxybenzyloxy) quinoline-3-carboxy-late, m.p. 157°-158°.

reactant | 2-methoxybenzyl chloride | 0.4 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
reactant | methyl 4-(1,3-benzodioxol-5-yl)-1, 2-dihydro-6-ethoxy-2-oxoquinoline-3-carboxylate | 0.4 g | O1COC2=C1C=CC(=C2)C2=C(C(NC1=CC=C(C=C21)OCC)=O)C(=O)OC | C20H17NO6
reactant | 1-amino-2-(3,4-methylenedioxybenzoyl)-4-ethoxybenzene | NC1=C(C=C(C=C1)OCC)C(C1=CC2=C(C=C1)OCO2)=O | C16H15NO4
reactant | methyl chloroformylacetate | ClC(=O)CC(=O)OC | C4H5ClO3
reactant | 3,4-methylenedioxybenzaldehyde | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | N-(tert-butyloxycarbonyl)-p-ethoxyaniline | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)OCC | C13H19NO3
reactant | tert-butyllithium | C(C)(C)(C)[Li]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | sodium methanolate | C[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
product | methyl 4-(1,3-benzodioxol-5-yl)-1,2-dihydro-6-ethoxy-1-(2-methoxybenzyl)-2-oxoquinoline-3-carboxylate | O1COC2=C1C=CC(=C2)C2=C(C(N(C1=CC=C(C=C21)OCC)CC2=C(C=CC=C2)OC)=O)C(=O)OC | C28H25NO7
